US05665777
A suspension in 1:1 dioxane/water (70 mL) of 4-(4-phenylphenoxy)butanoic acid ethyl ester (10.29 g, 36 mmol), prepared as in step 1, and lithium hydroxide hydrate (2.05 g, 49 mmol) was heated at reflux for 18 hours. Dioxane (35 mL) was then added and an additional 2.0 equivalents of lithium hydroxide hydrate was added four hours later. The reaction mixture was heated at reflux for two more hours, then was cooled to ambient temperature and concentrated in vacuo. The resulting white solids were shaken with ethyl ether and aqueous 1M NaOH and the residual solid (4-(4-phenylphenoxy)butyric acid, 3.53 g) was filtered off. The organic phase was discarded and the aqueous phase was acidified with concentrated HCl. The aqueous phase was extracted with ethyl acetate. The ethyl acetate extracts were dried over MgSO4, filtered, and concentrated in vacuo to give an additional 6.25 g of 4-(4-phenylphenoxy)butanoic acid.

reactant | dioxane water | 70 mL | O1CCOCC1.O
reactant | 4-(4-phenylphenoxy)butanoic acid ethyl ester | 36 mmol, 10.29 g | C(C)OC(CCCOC1=CC=C(C=C1)C1=CC=CC=C1)=O | C18H20O3
reactant | lithium hydroxide hydrate | 49 mmol, 2.05 g | O.[OH-].[Li+]
reactant | lithium hydroxide hydrate | 2.0 equivalents | O.[OH-].[Li+]
solvent | Dioxane | 35 mL | O1CCOCC1 | C4H8O2
product | 4-(4-phenylphenoxy)butanoic acid | 6.25 g | C1(=CC=CC=C1)C1=CC=C(OCCCC(=O)O)C=C1 | C16H16O3
